US05679696
A stirred solution of N-(2,6-dichloro-4-ethoxycarbonylphenyl)-3-cyclopentyloxy-4-methoxybenzamide (6.1 g; that is prepared as described in Example 8) in dry tetrahydrofuran (80 mL) at room temperature under argon is treated dropwise with a solution of lithium borohydride in tetrahydrofuran (115 mL; 2M). The mixture is stirred overnight and then it is treated portionwise with saturated brine (200 mL) and stirred for 30 minutes. The organic layer is then washed with water, dried over magnesium sulfate and evaporated. The resulting residue is subjected to flash chromatography on silica gel, to give N-(2,6-dichloro-4-hydroxymethylphenyl)-3-cyclopentyloxy-4-methoxybenzamide (4.4 g), m.p. 174°-176° C. [Elemental analysis: C,57.1; H,5.4; N,2.9%; calculated C20H21O4NCl2 :0.5H2 O: C,57.3; H,5.3; N,3.3%].

reactant | N-(2,6-dichloro-4-ethoxycarbonylphenyl)-3-cyclopentyloxy-4-methoxybenzamide | ClC1=C(C(=CC(=C1)C(=O)OCC)Cl)NC(C1=CC(=C(C=C1)OC)OC1CCCC1)=O | C22H23Cl2NO5
reactant | lithium borohydride | [BH4-].[Li+]
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2M, 115 mL | O1CCCC1 | C4H8O
solvent | brine | 200 mL | [Cl-].[Na+].O
product | N-(2,6-dichloro-4-hydroxymethylphenyl)-3-cyclopentyloxy-4-methoxybenzamide | 4.4 g | ClC1=C(C(=CC(=C1)CO)Cl)NC(C1=CC(=C(C=C1)OC)OC1CCCC1)=O | C20H21Cl2NO4
